US05780642
3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1,1-dimethyl-2-phenoxyethyl)propylamine (2.05 g) was reacted with benzenesulphonyl chloride (1.15 g) in a similar manner to Example 55 to give N-(2-{1-[3-(1,1-dimethyl-2-phenoxyethylamino)propyl]imidazol-4-yl}ethyl]benzene-sulphonamide, as an oil. The compound contained 7% of N-(2-{1-[3-(1,1-dimethyl-2-phenoxyethylamino)-propyl]imidazol-5-yl}ethyl]benzenesulphonamide, by 1H nmr and 13C nmr. These compounds may be separated by HPLC.

reactant | 3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1,1-dimethyl-2-phenoxyethyl)propylamine | 2.05 g | NCCC=1N=CN(C1)CCCNC(COC1=CC=CC=C1)(C)C | C18H28N4O
reactant | benzenesulphonyl chloride | 1.15 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(2-{1-[3-(1,1-dimethyl-2-phenoxyethylamino)propyl]imidazol-4-yl}ethyl]benzene-sulphonamide | CC(COC1=CC=CC=C1)(C)NCCCN1C=NC(=C1)CCNS(=O)(=O)C1=CC=CC=C1 | C24H32N4O3S
